US06977263B2
4-(3-Cyanophenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid 2-trimethylsilanyl-ethyl ester (10.40 g, 32 mmol) was dissolved in ethanol (250 ml), concentrated hydrochloric acid (3 ml, 35 mmol) and 10% palladium on carbon (50% wet, 5.0 g) was added. The mixture was hydrogenated at 50 psi for 4 hours then filtered through celite and concentrated. The oily solid obtained was triturated with ether/pentane and 4-(3-aminomethyl-phenyl)-piperidine-1-carboxylic acid 2-trimethylsilanyl-ethyl ester hydrochloride was obtained as a white solid (7.10 g). 1H NMR [(CD3)2SO, 300 MHz]: δ 8.38 (br s, 2H), 7.20-7.40 (m, 4H), 4.10 (t, 4H), 3.98 (s, 2H), 2.63-3.00 (m, 3H), 1.75 (m, 2H), 1.50 (m, 2H), 0.94 (t, 2H), 0.02 (s, 9H). LC-MS (ES) 335 (M++H), 93% TIC.

reactant | 4-(3-Cyanophenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid 2-trimethylsilanyl-ethyl ester | 32 mmol, 10.40 g | C[Si](CCOC(=O)N1CCC(=CC1)C1=CC(=CC=C1)C#N)(C)C | C18H24N2O2Si
reactant | hydrochloric acid | 35 mmol, 3 ml | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 5.0 g | [Pd] | Pd
product | 4-(3-aminomethyl-phenyl)-piperidine-1-carboxylic acid 2-trimethylsilanyl-ethyl ester hydrochloride | Cl.C[Si](CCOC(=O)N1CCC(CC1)C1=CC(=CC=C1)CN)(C)C | InChI=1S/C18H30N2O2Si.ClH/c1-23(2,3)12-11-22-18(21)20-9-7-16(8-10-20)17-6-4-5-15(13-17)14-19;/h4-6,13,16H,7-12,14,19H2,1-3H3;1H
